US08664220B2
Step 1: 1-[4-(4-Trifluoromethyl-benzyloxy)-phenyl]-propan-2-one
1-Bromomethyl-4-trifluoromethyl-benzene (1.55 g, 6.49 mmol) and 1-(4-hydroxy-phenyl)-propan-2-one (1.46 g, 9.74 mmol) were stirred in acetonitrile (65 mL) along with cesium carbonate (5.3 g, 16.23 mmol). After stirring at room temperature for two days the reaction was heated to 60° C. for 3 hours. After cooling the reaction was submitted to standard aqueous workup then purified on silica gel (0-100% (2% MeOH in EtOAC) to hexanes) to yield the title compound.

reactant | 1-Bromomethyl-4-trifluoromethyl-benzene | 6.49 mmol, 1.55 g | BrCC1=CC=C(C=C1)C(F)(F)F | C8H6BrF3
reactant | 1-(4-hydroxy-phenyl)-propan-2-one | 9.74 mmol, 1.46 g | OC1=CC=C(C=C1)CC(C)=O | C9H10O2
reactant | cesium carbonate | 16.23 mmol, 5.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 65 mL | C(C)#N | C2H3N
product | 1-[4-(4-Trifluoromethyl-benzyloxy)-phenyl]-propan-2-one | FC(C1=CC=C(COC2=CC=C(C=C2)CC(C)=O)C=C1)(F)F | C17H15F3O2
